US04703054
1-[2-(2-Oxo-1-pyrrolidineacetamido)acetyl]-2,2,5-trimethyl-4-imidazolidinone
The same procedure of example 11, starting form 2-oxo-1-pyrrolidineacetic acid and 1-(2-aminoacetyl)-2,2,5-trimethyl-4-imidazolidinone, gave the title compound, m.p. 213°-215° C. dec.

reactant | 2-oxo-1-pyrrolidineacetic acid | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | 1-(2-aminoacetyl)-2,2,5-trimethyl-4-imidazolidinone | NCC(=O)N1C(NC(C1C)=O)(C)C | C8H15N3O2
product | 1-[2-(2-Oxo-1-pyrrolidineacetamido)acetyl]-2,2,5-trimethyl-4-imidazolidinone | O=C1N(CCC1)CC(=O)NCC(=O)N1C(NC(C1C)=O)(C)C | C14H22N4O4
